US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-imidazo[1,2-a]pyrimidine-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.767 mmol) and imidazo[1,2-a]pyrimidine-2-carboxylic acid (163 mg, 0.997 mmol). The product was triturated with acetonitrile. Yield 168 mg (54%). 1H-NMR (400 MHz; d6-DMSO): δ 1.18 (d, 3H), 4.32-4.45 (m, 2H), 4.49-4.56 (m, 1H), 6.92 (d, 1H), 7.13-7.16 (m, 1H), 7.84 (d, 1H), 7.95 (d, 1H), 8.03-8.06 (m, 2H), 8.25 (s, 1H), 8.67-8.69 (m, 1H), 8.75 (d, 1H), 8.97-8.99 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | imidazo[1,2-a]pyrimidine-2-carboxylic acid | 0.997 mmol, 163 mg | N=1C(=CN2C1N=CC=C2)C(=O)O | C7H5N3O2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-imidazo[1,2-a]pyrimidine-2-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C2N(C=CC=N2)C1 | C20H16ClN7O
